US06313311B1
c) 3-(1H-Imidazol-4-yl)-5-isobutylindan-1-ol
3-(3-Benzyl-3H-imidazol-4-yl)-5-isobutylindan-1-one (0.5 g) is dissolved in ethanol (15 ml). The reaction solution is hydrogenated at 50° C. with 10% palladium on carbon as catalyst until no more hydrogen is consumed. The mixture is filtered to remove the catalyst, and the filtrate is evaporated under reduced pressure. The crude product contains cis- and trans-isomers. The isomers are purified by flash chromatography.

reactant | 3-(3-Benzyl-3H-imidazol-4-yl)-5-isobutylindan-1-one | 0.5 g | C(C1=CC=CC=C1)N1C=NC=C1C1CC(C2=CC=C(C=C12)CC(C)C)=O | C23H24N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(1H-Imidazol-4-yl)-5-isobutylindan-1-ol | N1C=NC(=C1)C1CC(C2=CC=C(C=C12)CC(C)C)O | C16H20N2O
